US05506228
The reaction of 10.55 g (0.113 mol)of aminobenzene with 13.2 g of sodium nitrite and 20 g of 3-chloro-2,4-pentanedione as in Example 1 yielded 8.95 g of 1-chloro-1-[(phenyl)hydrazono]-2-propanone, mp 132°-134° C.

reactant | aminobenzene | 0.113 mol, 10.55 g | NC1=CC=CC=C1 | C6H7N
reactant | sodium nitrite | 13.2 g | N(=O)[O-].[Na+]
reactant | 3-chloro-2,4-pentanedione | 20 g | ClC(C(C)=O)C(C)=O | C5H7ClO2
product | 1-chloro-1-[(phenyl)hydrazono]-2-propanone | 8.95 g | ClC(C(C)=O)=NNC1=CC=CC=C1 | C9H9ClN2O
